US07842696B2
DIPEA (193 mg, 0.25 mL, 1.11 mmol) was added to a stirred solution of 1H-Indole-2-carboxylic acid (60 mg, 0.37 mmol) in DMF (2 mL). HOBT (60 mg, 0.44 mmol) and EDCI (85 mg, 0.44 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (157 mg, 0.44 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 112 mg (65.88% yield) of 1H-indole-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 94.15%. 1H NMR (DMSO-d6): δ 11.6 (s, 1H), 8.6 (s, 1H), 7.9-7.4 (m, 6H), 7.2 (m, 2H), 7.1-7.0 (m, 1H), 4.3-4.1 (m, 2H), 3.8-3.4 (m, 6H), 3.2-3.0 (m, 2H).

reactant | DIPEA | 1.11 mmol, 0.25 mL, 193 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1H-Indole-2-carboxylic acid | 0.37 mmol, 60 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | HOBT | 0.44 mmol, 60 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.44 mmol, 85 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.44 mmol, 157 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1H-indole-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 112 mg, 65.88% yield | O=C(CNC(=O)C=1NC2=CC=CC=C2C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H21F3N4O3
